US08865726B2
To a solution of (S)-2-amino-2-(pyridin-2-yl)ethanol bis hydrochloride (0.80 g, 5.8 mmol) in water (50 mL) cooled to 0° C. was added potassium hydroxide (2.6 g, 46 mmol) and the reaction stirred at 0° C. for 15 minutes, followed by the addition of THF (100 mL) and the reaction cooled to 0° C. To the reaction was next added bis(trichloromethyl) carbonate (1.7 g, 5.8 mmol) and the reaction stirred at 0° C. for 2 hours. The reaction was diluted with EtOAc (300 mL) and the layers were separated. The organic layer was washed with water (100 mL) and brine (100 mL), dried over MgSO4 and concentrated in vacuo. The crude material was chromatographed using EtOAc as eluent to yield (S)-4-(pyridin-2-yl)oxazolidin-2-one (0.20 g, 21%).

reactant | (S)-2-amino-2-(pyridin-2-yl)ethanol bis hydrochloride | 5.8 mmol, 0.80 g | Cl.Cl.N[C@H](CO)C1=NC=CC=C1
reactant | potassium hydroxide | 46 mmol, 2.6 g | [OH-].[K+]
reactant | THF | 100 mL | C1CCOC1 | C4H8O
reactant | bis(trichloromethyl) carbonate | 5.8 mmol, 1.7 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
solvent | water | 50 mL | O | H2O
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | (S)-4-(pyridin-2-yl)oxazolidin-2-one | 0.20 g, 21% | N1=C(C=CC=C1)[C@@H]1NC(OC1)=O | C8H8N2O2
